US04059433
In the manner of Example II B, 8.4 g of phenyl (3-ethoxy-4-ethoxycarbonyl-5-isothiazolyl)carbamate in 20 ml of dimethylformamide were treated with 2.3 g of dimethylamine. The solid from the reaction mixture was recrystallized from ethanol to yield 1.9 g of 1,1-dimethyl-3-(3-ethoxy-4-ethoxycarbonyl-5-isothiazolyl)urea, mp 164°-165°. The ir and nmr spectra were consistent with the assigned structure.

reactant | phenyl (3-ethoxy-4-ethoxycarbonyl-5-isothiazolyl)carbamate | 8.4 g | C(C)OC1=NSC(=C1C(=O)OCC)NC(OC1=CC=CC=C1)=O | C15H16N2O5S
reactant | dimethylamine | 2.3 g | CNC | C2H7N
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1,1-dimethyl-3-(3-ethoxy-4-ethoxycarbonyl-5-isothiazolyl)urea | 1.9 g | CN(C(=O)NC1=C(C(=NS1)OCC)C(=O)OCC)C | C11H17N3O4S
